US07399759B2
N,N-Dimethyl-2-(2-methyl-4-pyridyl)ethenamine
n-Butyl lithium in hexane (1.6 M, 35 ml, 56 mmol) was added dropwise to a solution of 2,4-lutidine (5.0 g, 46 mmol) in tetrahydrofuran (50 ml) at −78° C., and the mixture was stirred at the same temperature for 30 minutes. Successively, diethylamine (5.1 g, 69 mmol) was added to the mixture, and the mixture was stirred at −78° C., and the mixture was stirred at the same temperature for 30 minutes. Furthermore, DMF (6.8 g, 93 mmol) was added to the mixture at −78° C., and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was combined with aqueous ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the titled compound (7.5 g, 99%).

reactant | n-Butyl lithium | C(CCC)[Li]
reactant | hexane | 56 mmol, 1.6 M, 35 ml | CCCCCC | C6H14
reactant | 2,4-lutidine | 46 mmol, 5.0 g | N1=C(C=C(C=C1)C)C | C7H9N
reactant | diethylamine | 69 mmol, 5.1 g | C(C)NCC | C4H11N
reactant | DMF | 93 mmol, 6.8 g | CN(C)C=O | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N,N-Dimethyl-2-(2-methyl-4-pyridyl)ethenamine | 7.5 g, 99% | CN(C=CC1=CC(=NC=C1)C)C | C10H14N2
